US07323569B2
7-Bromo-2-ethylpyrazolo[1,5-a]pyridine
A solution of 2-ethylpyrazolo[1,5-a]pyridine (5.0 g, 34.2 mmol) in tetrahydrofuran (50 mL) was cooled to below −70° C. under a nitrogen stream, and then a solution of n-butyllithium in hexane (32.5 mL, 1.58M solution, 51.4 mmol) was added dropwise at below −60° C. After stirring for 1 hour, bromopentafluorobenzene (9.3 g, 37.7 mmol) was added dropwise to the reaction mixture at below −60° C. The reaction mixture was stirred for 2 hours at below −70° C., and then water (50 mL) was added to the reaction mixture and the temperature was raised to room temperature. Ethyl acetate (50 mL) and water (50 mL) were added thereto, and extraction was performed with ethyl acetate. The organic extract was washed twice with 5% brine (50 mL) and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to afford 6.9 g of the title compound.

reactant | 2-ethylpyrazolo[1,5-a]pyridine | 34.2 mmol, 5.0 g | C(C)C1=NN2C(C=CC=C2)=C1 | C9H10N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 51.4 mmol, 1.58M, 32.5 mL | CCCCCC | C6H14
reactant | bromopentafluorobenzene | 37.7 mmol, 9.3 g | BrC1=C(C(=C(C(=C1F)F)F)F)F | C6BrF5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 7-Bromo-2-ethylpyrazolo[1,5-a]pyridine | 6.9 g | BrC1=CC=CC=2N1N=C(C2)CC | C9H9BrN2
